US05025031
Sulfamic acid 2-(phenylmethoxy)ethyl ester
The title compound was prepared by procedures of Example 16 from sulfamoyl chloride and 2-(benzyloxy)ethanol except the oil obtained was then further purified by high pressure chromatography as described in earlier examples using methylene chloride as the eluting agent. Fractions containing the title compound were combined and the solvent was evaporated under reduced pressure to give title compound in 54% yield as light-yellow, viscous oil.

reactant | sulfamoyl chloride | S(N)(=O)(=O)Cl | ClH2NO2S
reactant | 2-(benzyloxy)ethanol | C(C1=CC=CC=C1)OCCO | C9H12O2
product | Sulfamic acid 2-(phenylmethoxy)ethyl ester | C1(=CC=CC=C1)COCCOS(N)(=O)=O | C9H13NO4S
